US08735414B2
To a solution of (S)-6-(6-ethyl-5-fluoro-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide (0.22 g, 0.53 mmol) in a mixture of DMF (0.5 mL) and acetonitrile (0.5 mL) was added chlorosulfonyl isocyanate dropwise at −50° C. The reaction mixture was kept stirring at 0° C. for 0.5 hr and then quenched with ice, following by pouring into water. After 0.5 hr stirring at room temperature, the resulting solid was collected by filtration and washed with water, hexane and CH2Cl2. After air drying, (S)-6-(3-cyano-6-ethyl-5-fluoro-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide was obtained and used in the next step without further purification.

reactant | (S)-6-(6-ethyl-5-fluoro-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | 0.53 mmol, 0.22 g | C(C)C1=C(C=C2C=C(NC2=C1)C1=CC=C(C=N1)S(=O)(=O)N[C@H](C(F)(F)F)C)F | C18H17F4N3O2S
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | (S)-6-(3-cyano-6-ethyl-5-fluoro-1H-indol-2-yl)-N-(1,1,1-trifluoropropan-2-yl)pyridine-3-sulfonamide | C(#N)C1=C(NC2=CC(=C(C=C12)F)CC)C1=CC=C(C=N1)S(=O)(=O)N[C@H](C(F)(F)F)C | C19H16F4N4O2S
